US05578620
Ethyl 3-(5-phenoxymethyl-2-oxooxazolidin-3-yl)propionate
A procedure similar to that described in Preparation 4 was repeated, except that 113 mg of sodium hydride (as a 55% by weight dispersion in mineral oil), 10 ml of anhydrous dimethylformamide, 420 mg of 5-phenoxymethyloxazolidin-2-one (prepared as described in Preparation 112) and 471 mg of ethyl 3-bromopropionate were used, to give 463 mg of the title compound having an Rf value of 0.34 (on silica gel thin layer chromatography, using a 2:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | sodium hydride | 113 mg | [H-].[Na+]
reactant | 5-phenoxymethyloxazolidin-2-one | 420 mg | O(C1=CC=CC=C1)CC1CNC(O1)=O | C10H11NO3
reactant | ethyl 3-bromopropionate | 471 mg | BrCCC(=O)OCC | C5H9BrO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-(5-phenoxymethyl-2-oxooxazolidin-3-yl)propionate | 463 mg | O(C1=CC=CC=C1)CC1CN(C(O1)=O)CCC(=O)OCC | C15H19NO5
